US08440665B2
A solution of 4-fluoropicolinic acid (1.0 g, 6.4 mmol), HATU (2.9 g, 7.6 mmol), and N-methylmorpholine (0.84 mL, 7.6 mmol) in N,N-dimethylformamide (12 mL) was stirred at 0° C. for 30 minutes. Methyl 4-aminothiophene-2-carboxylate (990 mg, 7.0 mmol) was added, the reaction was stirred for 30 minutes at 0° C., then warmed to room temperature, and stirred for an additional 2 hours. The solvent was removed under reduced pressure, the residue was suspended in acetonitrile/H2O (1:1) and the solids were isolated by filtration, washed with water, acetonitrile, then dried to afford methyl 4-(4-fluoropicolinamido)thiophene-2-carboxylate as a white powder (1.0 g, 56% yield). M+1=281.1.

reactant | 4-fluoropicolinic acid | 6.4 mmol, 1.0 g | FC1=CC(=NC=C1)C(=O)O | C6H4FNO2
reactant | HATU | 7.6 mmol, 2.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 7.6 mmol, 0.84 mL | CN1CCOCC1 | C5H11NO
reactant | Methyl 4-aminothiophene-2-carboxylate | 7.0 mmol, 990 mg | NC=1C=C(SC1)C(=O)OC | C6H7NO2S
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-fluoropicolinamido)thiophene-2-carboxylate | 1.0 g, 56% yield | FC1=CC(=NC=C1)C(=O)NC=1C=C(SC1)C(=O)OC | C12H9FN2O3S
